US08378107B2
Step 3: (3-{2-[(Benzyl-tert-butoxycarbonyl-amino)-methyl]-quinolin-3-yl}-4-methoxy-phenyl)-acetic acid ethyl ester
Prepared according to the procedure described in Example 5, Step 3, using the following starting materials: benzyl-(3-bromo-quinolin-2-ylmethyl)-carbamic acid tert-butyl ester and [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester.

reactant | benzyl-(3-bromo-quinolin-2-ylmethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC1=NC2=CC=CC=C2C=C1Br)CC1=CC=CC=C1)=O | C22H23BrN2O2
reactant | [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C)=O | C17H25BO5
product | (3-{2-[(Benzyl-tert-butoxycarbonyl-amino)-methyl]-quinolin-3-yl}-4-methoxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)C=1C(=NC2=CC=CC=C2C1)CN(C(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C33H36N2O5
